US06492394B1
To a solution of N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide (3.0 g, 5.39 mmol) in argon deoxygenated 80% ethanol-tetrahydrofuran (160 mL) was added 10% Pd—C (1.3 g), and the resulting mixture was hydrogenated at atmospheric pressure for 45 min. The reaction mixture was degassed under argon and the slurry was filtered over Celite. The Celite cake was washed with ample 80% ethanol-methylene crystallize. The slurry was filtered, washing with 50% diethyl ether-hexanes to afford N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide (2.38 g) as a white solid.

reactant | N-benzyloxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide | 5.39 mmol, 3.0 g | C(C1=CC=CC=C1)ONC([C@@H](CO)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C27H30N2O8S
catalyst | Pd—C | 1.3 g | [Pd] | Pd
solvent | ethanol tetrahydrofuran | 160 mL | C(C)O.O1CCCC1
product | N-hydroxy-2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,6-dimethylbenzenesulfonyl)amino]-3-hydroxypropionamide | 2.38 g | ONC([C@@H](CO)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC1=CC2=C(C=C1)OCO2)=O | C20H24N2O8S
